US06645973B1
1′-Carboxymethyl-7-methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine]hydrochloride
A mixture of ethyl 7-methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine]-1′-acetate (3.38 g, 8.60 mmol), ethyl alcohol (250 cm3) and aqueous lithium hydroxide solution (2 N, 6.44 cm3, 12.88 mmol) was heated to reflux for 3.5 h. Upon cooling, the mixture was treated with hydrochloric acid (5 N, 70 cm3) and some of the ethyl alcohol was removed until precipitation began. The mixture was then cooled to 4° C. until crystallisation was complete. The solid was removed by vacuum filtration to afford the title product as a white solid, m.p. 195-230° C., positive ion ESI (M+H)+366.4.

reactant | ethyl 7-methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine]-1′-acetate | 8.60 mmol, 3.38 g | COC1=CC2=C(C(=CC3(CCN(CC3)CC(=O)OCC)O2)C2=CC=CC=C2)C=C1 | C24H27NO4
reactant | lithium hydroxide | 12.88 mmol, 2 N, 6.44 cm3 | [OH-].[Li+]
reactant | hydrochloric acid | 5 N, 70 cm3 | Cl | ClH
solvent | ethyl alcohol | 250 cm3 | C(C)O | C2H6O
product | 1′-Carboxymethyl-7-methoxy-4-phenylspiro[2H-1-benzopyran-2,4′-piperidine]hydrochloride | Cl.C(=O)(O)CN1CCC2(CC1)OC1=C(C(=C2)C2=CC=CC=C2)C=CC(=C1)OC | InChI=1S/C22H23NO4.ClH/c1-26-17-7-8-18-19(16-5-3-2-4-6-16)14-22(27-20(18)13-17)9-11-23(12-10-22)15-21(24)25;/h2-8,13-14H,9-12,15H2,1H3,(H,24,25);1H
